US04395561
A solution of 271.9 g (1.78 moles) of 3-chloro-2-hydroxy-1-propyl acetate, 244 ml (2.67 moles) of freshly distilled dihydropyran, and 44.7 g (0.178 moles) of pyridinium p-toluenesulfonate in 1800 mL of methylene chloride was stirred at room temperature with cooling to control the reaction exotherm. After 22 hours the reaction mixture was washed with 500 mL of water and 250 mL of sodium chloride solution, and was dried over sodium sulfate. Solvent was removed and the residue was dried at 0.03 mm for 1.5 hours to give 473.3 g of crude 3-chloro-2-tetrahydropyranyloxy-1-propyl acetate: 1H NMR (CDCl3) δ1.63 (br. s, 6 H, (CH2)3); 2.08 (s, 3H, CH3CO); 3.5-4.3 (7H, CH2CHCH2); 4.73 (br. s, 1H, --O--CH); IR (neat, NaCl) 3000, 2910 (C--H); 1740 cm- 1 (--O--CO--CH3).

reactant | 3-chloro-2-hydroxy-1-propyl acetate | 1.78 moles, 271.9 g | C(C)(=O)OCC(CCl)O | C5H9ClO3
reactant | dihydropyran | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 0.178 moles, 44.7 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methylene chloride | 1800 mL | C(Cl)Cl | CH2Cl2
product | 3-chloro-2-tetrahydropyranyloxy-1-propyl acetate | 473.3 g | C(C)(=O)OCC(CCl)OC1OCCCC1 | C10H17ClO4
